US04315000
A mixture of 5.0 g of 4,6-diamino-3-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-3H-imidazo[4,5-c]pyridine, 1.5 g of 20% palladium on carbon, 1.6 ml of acetic acid and 150 ml of methoxyethanol is hydrogenated at 50° C. and ca. 3 atmospheres until uptake of hydrogen ceases. The mixture is filtered, evaporated in vacuo, dissolved in water, and treated with 50 ml of wet IR-45 ion exchange resin. The filtrate is concentrated to dryness and recrystallized from ethanol-water to provide 2.0 g of 3-β-D-arabinofuranosyl-4,6-diamino-3H-imidazo-[4,5-c]pyridine.

reactant | 4,6-diamino-3-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-3H-imidazo[4,5-c]pyridine | 5.0 g | NC1=NC(=CC2=C1N(C=N2)[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2)N | C32H33N5O4
reactant | methoxyethanol | 150 ml | COC(C)O | C3H8O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | acetic acid | 1.6 ml | C(C)(=O)O | C2H4O2
product | 3-β-D-arabinofuranosyl-4,6-diamino-3H-imidazo-[4,5-c]pyridine | 2.0 g | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C=NC2=C1C(=NC(=C2)N)N | C11H15N5O4
